US07582765B2
2-(3-(N-Isopropylamino)methylphenyl)-4-nitroanisole (120 mg, 0.39 mmol) was dissolved in MeOH/THF (5 mL:5 mL), and 10% Pd/C (20 mg) was added. The slurry was stirred at room temperature under an atmosphere of H2 for 16 h. The slurry was then filtered and evaporated to afford 3-[3-(N-isopropylamino)methylphenyl]-4-methoxyaniline as a brown oil (101 mg, 0.37 mmol, 96%).

reactant | 2-(3-(N-Isopropylamino)methylphenyl)-4-nitroanisole | 0.39 mmol, 120 mg | C(C)(C)NCC=1C=C(C=CC1)C1=C(C=CC(=C1)[N+](=O)[O-])OC | C17H20N2O3
solvent | MeOH THF | 5 mL | CO.C1CCOC1
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 3-[3-(N-isopropylamino)methylphenyl]-4-methoxyaniline | 0.37 mmol, 101 mg, 96% | C(C)(C)NCC=1C=C(C=CC1)C=1C=C(N)C=CC1OC | C17H22N2O
